US06239131B1
Preparation of 1-[1-(2-toluoylmethyl)-2-oxo-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea
Ethyl 3-aminobenzoate (290 mg) was dissolved in tetrahydrofuran (60 m), under ice-cooling triphosgene (175 mg) was added, triethylamine (151 μl) was added thereto five times every 3 minutes,a solution of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (647 mg) in tetrahydrofuran (5 ml) was subsequently added, and the mixture was allowed to come to room temperature and stirred for 2 hours and 40 minutes. The reaction mixture was concentrated under reduced pressure, water was added, and extracted with methylene chloride. The organic layer was successively washed with 1N hydrochloric acid and saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography(chloroform:ethyl acetate=5:1), to thereby obtain 373 mg of the titled compound.

reactant | Ethyl 3-aminobenzoate | 290 mg | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | triphosgene | 175 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 151 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 647 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C=C(C)C)=O)N)=O)C | C24H27N3O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[1-(2-toluoylmethyl)-2-oxo-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 373 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C=C(C)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C34H36N4O6
